US06841556B2
5-Phenyl-1H-pyrazolo[4,3-c]isoquinoline-3-carboxylic acid (60)
2.1 g of potassium permanganate in 36 ml of water were added to a solution of 600 mg of 5-phenyl-3-methyl-1H-pyrazolo[4,3-c]isoquinoline in 36 ml of pyridine. The mixture was stirred at 40° C. for 12 h. The resulting suspension was filtered with suction through silica gel, after which the filtrate was concentrated under reduced pressure and the residue was purified by means of HPLC (Merk-Hibar-Lichrospher 100-RP-18, water (0.1% trifluoroacetic acid)/acetonitrile (0.1% trifluoroacetic acid)=80/20→10/90). The following was obtained: 60. C17H11N3O2 (289.30) MS (ESI) 290 (M+H)

reactant | potassium permanganate | 2.1 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 5-phenyl-3-methyl-1H-pyrazolo[4,3-c]isoquinoline | 600 mg | C1(=CC=CC=C1)C1=NC2=C(C=3C=CC=CC13)NN=C2C | C17H13N3
reactant | water | 36 ml | O | H2O
solvent | pyridine | 36 ml | N1=CC=CC=C1 | C5H5N
product | 5-Phenyl-1H-pyrazolo[4,3-c]isoquinoline-3-carboxylic acid | C1(=CC=CC=C1)C1=NC2=C(C=3C=CC=CC13)NN=C2C(=O)O | C17H11N3O2
